US05563163
It is contemplated that following the procedure of Example 17, 2-chloromethyl-4-isopropyl-6-methoxy-4,5,6,7-tetrahydrosaccharin of preparation 23BJ can be coupled with 2,4-dimethyl-3-pyridinecarboxylic acid to provide 4-isopropyl-6-methoxy-4,5,6,7-tetrahydro-2-saccharinylmethyl 2,4-dimethylpyridine-3-carboxylate.

reactant | 2-chloromethyl-4-isopropyl-6-methoxy-4,5,6,7-tetrahydrosaccharin | ClCN1S(=O)(=O)C=2CC(CC(C2C1=O)C(C)C)OC | C12H18ClNO4S
reactant | 2,4-dimethyl-3-pyridinecarboxylic acid | CC1=NC=CC(=C1C(=O)O)C | C8H9NO2
product | 4-isopropyl-6-methoxy-4,5,6,7-tetrahydro-2-saccharinylmethyl 2,4-dimethylpyridine-3-carboxylate | CC1=NC=CC(=C1C(=O)OCN1S(=O)(=O)C=2CC(CC(C2C1=O)C(C)C)OC)C | C20H26N2O6S
